US04219660
Preparation of Tetrahydro-4-(3-methyl-4-nitro-2-butene-1-yl) (4H)-1,4-oxazine.
To a solution of 0.1 Mol of 1-bromo-3-methyl-4-nitro-2-butene in ether at 0° C. was added 0.2 Mol of morpholine and stirred at room temperature for two days. The residue, after filtration and evaporation of the solvent, was purified by column chromatography followed by Kugelrohrdistillation at 140°-150° oven temperature and oil pump vacuum. The product obtained was a yellow oil.

reactant | 1-bromo-3-methyl-4-nitro-2-butene | 0.1 Mol | BrCC=C(C[N+](=O)[O-])C | C5H8BrNO2
reactant | morpholine | 0.2 Mol | N1CCOCC1 | C4H9NO
solvent | ether | CCOCC | C4H10O
product | Tetrahydro-4-(3-methyl-4-nitro-2-butene-1-yl) (4H)-1,4-oxazine | CC(=CCN1CCOCC1)C[N+](=O)[O-] | C9H16N2O3
